US09145415B2
To a solution of N-Boc-glycine (175 mg) in tetrahydrofuran (2 mL), N-methylmorpholine (165 μL) and isobutyl chloroformate (131 μL) were added under ice cooling, and the mixture was stirred at the same temperature for 40 minutes. To the reaction mixture, 2-(4-bromophenyl)ethylamine (100 μL) was added under ice cooling, and the mixture was stirred at room temperature for 5 hours. To the reaction mixture, saturated aqueous sodium hydrogencarbonate and ethyl acetate were added. The organic layer was separated, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain tert-butyl (2-((4-bromophenethyl)amino)-2-oxoethyl)carbamate (R5).

reactant | N-Boc-glycine | 175 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 2-(4-bromophenyl)ethylamine | 100 μL | BrC1=CC=C(C=C1)CCN | C8H10BrN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | N-methylmorpholine | 165 μL | CN1CCOCC1 | C5H11NO
solvent | isobutyl chloroformate | 131 μL | ClC(=O)OCC(C)C | C5H9ClO2
product | tert-butyl (2-((4-bromophenethyl)amino)-2-oxoethyl)carbamate | BrC1=CC=C(CCNC(CNC(OC(C)(C)C)=O)=O)C=C1 | C15H21BrN2O3
